US07476741B2
4-(3-Bromo-4,5-dimethoxyphenyl)-7-dimethylamino-2-hydroxy-chroman
The [4-(3-bromo-4,5-dimethoxy-phenyl)-2-morpholin-4-yl-chroman-7-yl]-dimethyl-amine was hydrolyzed to the lactol by heating 160 mg of crude solid in a mixture of acetic acid (2 ml) and water (2.4 ml) at 50° C. for 20 min. The reaction mixture was slowly added to saturated NaHCO3. It was extracted with dichloromethane (100 ml) and washed with brine (10 ml). The extract was dried over sodium sulphate and the solvent was evaporated. The crude product was passed through a bond-elute (hexane:ethyl acetate=9:1 and 4:1), yielding the title compound (110 mg; 80%). 1H NMR (CD3OD): 6.96 and 6.91 (two broad signals, 1H), 6.82 and 6.80 (two broad signals, 1H), 6.58 and 6.51 (d each, J=8.6 Hz, 1H), 6.28-6.34 (m, 1H), 6.23 and 6.22 (d each, J=2.1 Hz, 1H), 5.47 (broad signal) and 5.37 (d, J=8.9 Hz) (1H), 4.11-4.17 (m, 1H), 3.795, 3.793, 3.785 and 3.782 (s each, 6H), 2.871 and 2.868 (s each, 6H), 1.87-2.15 (m, 2H).

reactant | [4-(3-bromo-4,5-dimethoxy-phenyl)-2-morpholin-4-yl-chroman-7-yl]-dimethyl-amine | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=CC(=CC=C12)N(C)C)N1CCOCC1 | C23H29BrN2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 2.4 ml | O | H2O
product | 4-(3-Bromo-4,5-dimethoxyphenyl)-7-dimethylamino-2-hydroxy-chroman | 110 mg, 80% | BrC=1C=C(C=C(C1OC)OC)C1CC(OC2=CC(=CC=C12)N(C)C)O | C19H22BrNO4
